US04958037
8-(2-Furyl)-8-methoxy-5-octynoic acid
A solution of 1.25 g of methyl 8-(2-furyl)-8-methoxy-5-octynoate, 0.66 g of 85% potassium hydroxide, 15 ml of methanol and 10 ml of water was heated under reflux for one hour. The methanol was evaporated and the residue partitioned with ether and water. The aqueous layer was chilled at 0° to 10° C., acidified with hydrochloric acid and the product extracted with ether. The extract was washed with brine, dried and concentrated, giving 1.13 g of the desired compound as a colorless oil. The identification is established by PMR; δ 3.35 (3H, s, methyl ether).

reactant | methyl 8-(2-furyl)-8-methoxy-5-octynoate | 1.25 g | O1C(=CC=C1)C(CC#CCCCC(=O)OC)OC | C14H18O4
reactant | potassium hydroxide | 0.66 g | [OH-].[K+]
reactant | methanol | 15 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 8-(2-Furyl)-8-methoxy-5-octynoic acid | 1.13 g | O1C(=CC=C1)C(CC#CCCCC(=O)O)OC | C13H16O4
